US04861893
(a) (±)-cis-4-(4'-Fluorophenyl)-3-methoxycarbonyl-1-methyl-piperidine
4-(4'-Fluorophenyl)-3-methoxycarbonyl-1-methylpyridinium bromide (15.90 g), prepared as in Example 1, in ethanol (250 ml) was hydrogenated at atmospheric pressure and 45° for 24 hours, in the presence of platinum oxide (0.5 g). Evaporation of the filtrate after removing the catalyst gave a dark oil which was partitioned between 10% sodium carbonate solution (100 ml) and dichloromethane (30 ml). After separation, the aqueous phase was extracted with dichloromethane (3×20 ml) and the organic solutions dried (potassium carbonate) and evaporated to give an off-white solid (12.1 g). Crystallisation from ethyl acetate gave the title compound as white crystals (8.32 g, 72%), m.p. 88°-89°.

reactant | 4-(4'-Fluorophenyl)-3-methoxycarbonyl-1-methylpyridinium bromide | 15.90 g | [Br-].FC1=CC=C(C=C1)C1=C(C=[N+](C=C1)C)C(=O)OC
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | (±)-cis-4-(4'-Fluorophenyl)-3-methoxycarbonyl-1-methyl-piperidine | 12.1 g | FC1=CC=C(C=C1)[C@@H]1[C@@H](CN(CC1)C)C(=O)OC | C14H18FNO2
